US05710336
2-Methylamino-4-(2,3-dimethoxyphenyl)butyric acid hydrochloride
70.0 g of 2-keto-4-(2,3-dimethoxyphenyl)-3-butenoic acid (0,30 moles) dissolved in 700 ml of ethanol are placed into a hydrogenator, then 43.0 g of an 8.03M (0.34 mole) methylamine solution and glacial acetic acid under nitrogen atmosphere are added to pH from 8 to 9, keeping the temperature below 25° C. Stirring is continued for about 15 minutes, then 14.0 g of 5% Pd/C (about 50% humidity) are added, under hydrogen pressure (40 psi, room temperature) for 6 hours. The reaction mixture is then adjusted to markedly acid pH with concentrated HCl, filtered and the solution is evaporated to dryness. The resulting solid is taken up and triturated with heating (50° C.) with 300 ml of acetone, then it is left to cool under stirring, filtered and dried under vacuum at 40° C. Yield: 51 g, 60% (moles), 73%(weight); TLC: methylene chloride/methanol/acetic acid 75/20/10; Rf=0,5; Developer: ninhydrin. M.p.=165°-166° C.

reactant | 2-keto-4-(2,3-dimethoxyphenyl)-3-butenoic acid | 0,30 moles, 70.0 g | O=C(C(=O)O)C=CC1=C(C(=CC=C1)OC)OC | C12H12O5
reactant | methylamine | 0.34 mole, 8.03M | CN | CH5N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | HCl | Cl | ClH
solvent | ethanol | 700 ml | C(C)O | C2H6O
catalyst | Pd/C | 14.0 g | [Pd] | Pd
product | 2-Methylamino-4-(2,3-dimethoxyphenyl)butyric acid hydrochloride | Cl.CNC(C(=O)O)CCC1=C(C(=CC=C1)OC)OC | InChI=1S/C13H19NO4.ClH/c1-14-10(13(15)16)8-7-9-5-4-6-11(17-2)12(9)18-3;/h4-6,10,14H,7-8H2,1-3H3,(H,15,16);1H
